2169-01-06 06:45:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
   - Patient planned to be on linezolid,gentamicin, meropenem with gent to
   be dosed based on trough levels
   - Patient with low UOP throughout the night and this AM with UOP
   averaging 28 mL/hr this AM despite increasing fluid rate to 125 mL/hr
   - Blood culture from yesterday showed growth this AM of [**1-5**] GPC in
   pairs and chains
   Patient reports no pain or dyspnea, but does report that her
bum is
   sore
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-1-6**] 04:02 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-6**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.4
C (95.7
   HR: 65 (62 - 90) bpm
   BP: 144/59(77) {109/38(57) - 145/109(117)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    100 mL
                                                                    804 mL
   PO:
             TF:
   IVF:
                                                                    100 mL
                                                                    804 mL
   Blood products:
   Total out:
                                                                    205 mL
                                                                    195 mL
   Urine:
                                                                    205 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -105 mL
                                                                    609 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   GEN: NAD
   HEENT: AT/NC, PERRL
   NECK: No LAD
   PULM: Right anterior lung field crackles, otherwise CTAB
   CARD: Irregular,  nl S1, nl S2, no M/R/G
   ABD: BS+, obese, soft, non-tender, non-distended,
   EXT: Bilateral 2+ pitting edema of lower extremities R > L
   SKIN: Multiple injuries to anterior tibias bilaterally
   NEURO: Patient is responsive to voice and interactive. Some evidence of
   echolalia.
   Labs / Radiology
   104 K/uL
   10.7 g/dL
   111 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.4 mEq/L
   36 mg/dL
   110 mEq/L
   142 mEq/L
   32.4 %
   16.3 K/uL
        [image002.jpg]
                             [**2169-1-5**]  06:04 PM
                             [**2169-1-6**]  04:56 AM
   WBC
   25.6
   16.3
   Hct
   35.4
   32.4
   Plt
   120
   104
   Cr
   0.8
   TropT
   0.05
   Glucose
   111
   Other labs: PT / PTT / INR:14.0/20.6/1.2, CK / CKMB /
   Troponin-T:17/4/0.05, ALT / AST:[**8-31**], Alk Phos / T Bili:139/1.1,
   Differential-Neuts:91.3 %, Lymph:6.0 %, Mono:2.5 %, Eos:0.0 %,
   Albumin:2.8 g/dL, LDH:152 IU/L, Ca++:9.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ATRIAL FIBRILLATION (AFIB)
 LEUKOCYTOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   83 year old female with history of biliary obstruction, polymicrobial
   bacteremia from cholangitis presenting with sepsis from likely RUQ
   source, now improving.
   1. Sepsis:
   At OSH, hypotensive with leukocytosis and polymicrobial bacteremia.
   Currently with E. coli, Klebsiella, GPC and an additional GNR growing
   from blood cultures. Has negative UA/Urine culture and negative CXR for
   pneumonia. Source is likely biliary, concern for liver abscess on CT
   scan from [**2169-1-3**] from OSH.  She also had elevated TB/AP at OSH
   admission that trended to normal. OSH studies on CD/available for
   comparison.
   - ERCP for evaluation of stents
   - CT abdomen to furthur investigate intra-abdominal processes,
   specifically potential of liver absecess vs. mets
   - Continue Linezolid, Meropenem, Gentamicin with gent dosed Q48H with a
   trough prior to each dose (most recent gent dose prior to admission was
   at 0600 on [**2169-1-5**].
   - Await final speciations and senstivities of OSH blood cultures
   - Follow-up speciation of blood cultures from admission
   - Wean antibiotics as indicated by culture data
   - Surveillance blood cultures
   2. Atrial fibrillation:
   Paroxysmal atrial fibrillation, currently in sinus with PACs. Digoxin
   level returned yesterday as 3.5. Dilt IV as needed, optimize
   electrolytes.  CHADS score is 4, patient would warrant anticoagulation,
   though this issue is complicated by history of recent falls. In any
   case, would not start until after ERCP completed. Had been ordered for
   propafenone at OSH, but per [**Month (only) **], did not receive. Will not start.
   - Will hold for today and then continue start digoxin again tomorrow
   with lower weekly dose.
   3. Thrombocytopenia:
   No evidence of splenomegaly on CT scan. Admission Plt count 243 and now
   104 (OSH value was 93). A component of dilution expected, but ? related
   to critical illness vs. medication. Thrombocytopenia not associated
   with gentamicin or imipenem. She was receiving Lovenox and Vancomycin.
   4. NSTEMI:
   Positive troponin, ECG changes and elevated BNP at OSH (though clinical
   setting in which this was ordered is unclear).   [**Name2 (NI) 6**] LE edema and is on
   chronic Lasix at home (check LENIs in am). Lasix currently on hold.
   ECG from [**2169-1-2**] to [**2169-1-3**] demonstrate a change in axis and
   co-incides with chills/rigors/shortness of breath noted in one of the
   consultant notes.  ECG here with new TWI V1-V4 and maintenance of new
   axis since [**1-2**]. Patient is ruled out for MI by troponins. Continue
   aspirin and statin.  Unclear why not on ace or beta blocker at home
   given history of CAD/CHF.
   - Follow-up AM EKG
   - Follow-up ECHO
   5. Lower Extremity Edema:
   Right greater than left with no associated pain.
   - Lower extremity dopplers to evaluate for DVTs.
   5. Parkinson's disease:
   Continue Sinemet and Pramipexole at outpatient doses.
   6. Diabetes mellitus, type 2:
   SSI for now
   7. Hyperlipidemia:
   Continue Zocor
   8. Allergies:
   Continue outpatient Singulair, albuterol nebs prn
   ICU Care
   Nutrition:
   NPO in anticipation of ERCP this AM, then will be cardiac,
   heart-healthy diet.
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-1-5**] 04:47 PM
   22 Gauge - [**2169-1-5**] 09:51 PM
   Prophylaxis:
   DVT: Heparin subcutaneous
   Stress ulcer: Not indicated
   VAP:  Not intubated or on vent
   Comments:
   Communication:  With patient
   Code status: DNR / DNI
   Disposition: Ongoing ICU care s/p ERCP as will be high risk for sepsis.

2169-01-07 05:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - The repeat CT abd/pelvis showed multiple abscesses in the liver
   adjacent to where the stents are placed in the anterior portion of the
   left lobe.  The largest collection is 1.5 cm; additionally there are a
   couple of subcm foci.  Also seen is intrahepatic ductal
   dilation/cholangitis.  The radiologist also suspects a mass centrally
   at the porta hepatis as intrahepatic ductal dilation is present (but no
   mass is visualized).  Per radiology none of the collections would be
   amenable to drainage.
   - The patient went for ERCP and had both sides of her stents flushed
   without complication.
   - Culture data was faxed from the OSH and showed:
      - enterococcus sensitive to gent and streptomycin
      - E.coli sensitive to gent, imipenem, and cephalosporins
      - Klebsiella pansensitive except to amp
   - The lower extrem dopplers showed a DVT in her left leg (even though
   the right leg looks more swollen).  After her ERCP she was started on a
   heparin gtt for a goal PTT of 50-70.
   - Her TTE showed an EF of >55%, but elevated PCWP.
   - Her BCx from [**1-5**] were [**4-8**] gram + cocci in pairs and chains
   - There was concern that the patient aspirated her pm meds so her meds
   were changed to IV and speech and swallow c/s was requested.
   This am she denies pain, SOB, or other complaints.
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Gentamicin - [**2169-1-6**] 02:00 PM
   Meropenem - [**2169-1-7**] 03:51 AM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-1-6**] 08:00 AM
   Other medications:
   Tele: irregular, HR in the 60
s to 70
s, occasionally appears to be in
   bigeminy.
   Flowsheet Data as of  [**2169-1-7**] 05:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 72 (62 - 83) bpm
   BP: 153/66(85) {117/45(68) - 159/77(92)} mmHg
   RR: 22 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,636 mL
                                                                    218 mL
   PO:
                                                                    930 mL
             TF:
   IVF:
                                                                  2,706 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                    895 mL
                                                                    220 mL
   Urine:
                                                                    895 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,741 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   GEN: elderly female lying in bed in NAD
   HEENT: AT/NC, PERRL, MM dry
   NECK: No JVD seen
   PULM: CTAB
   CARD: Irregular,  nl S1, nl S2, no M/R/G
   ABD: BS+, obese, soft, non-tender, non-distended,
   EXT: Bilateral 2+ pitting edema of lower extremities
   SKIN: Multiple skin injuries to her anterior tibias bilaterally
   NEURO: Patient is responsive to voice and interactive.  Oriented to
   person and place, but not to time.
   Labs / Radiology
   128 K/uL
   10.5 g/dL
   82 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   21 mg/dL
   110 mEq/L
   142                    mEq/L
   32.0 %
   20.4 K/uL
        [image002.jpg]
                             [**2169-1-5**]  06:04 PM
                             [**2169-1-6**]  04:56 AM
   WBC
   25.6
   16.3
   Hct
   35.4
   32.4
   Plt
   120
   104
   Cr
   0.8
   0.7
   TropT
   0.05
   0.05
   Glucose
   111
   81
   Other labs: PT / PTT / INR:14.0/20.6/1.2, CK / CKMB /
   Troponin-T:11/2/0.05, ALT / AST:[**5-23**], Alk Phos / T Bili:126/1.1,
   Differential-Neuts:91.3 %, Lymph:6.0 %, Mono:2.5 %, Eos:0.0 %,
   Albumin:2.8 g/dL, LDH:152 IU/L, Ca++:9.1 mg/dL, Mg++:2.5 mg/dL, PO4:2.6
   mg/dL
   [1][**2169-1-7**]
   BLOOD CULTURE
   Pending
   [2][**2169-1-6**]
   BLOOD CULTURE
   Pending
   [3][**2169-1-5**]
   BLOOD CULTURE
   Preliminary
[**2-6**] gram + cocci in chains and clusters
   [4][**2169-1-5**]
   BLOOD CULTURE
   Preliminary
 [**2-6**] gram + cocci in chains and clusters
   [5][**2169-1-5**]
   URINE
   Final
   [6][**2169-1-5**]
   MRSA SCREEN
   Pending
   1) enterococcus sensitive to gent and streptomycin
   2) E.coli sensitive to gent, imipenem, and cephalosporins
   3) Klebsiella pansensitive except to amp.
   CT abd/pelvis [**1-6**]:
   CT abd/pelvis [**12-7**] -
   1. Intrahepatic biliary ductal dilatation with peri-biliary enhancement
   consistent with cholangitis. Anteriorly in the left lobe, multiple
   hypodense collections with enhancing rims, consistent with multiple
   abscesses. The largest measures approximately 2 cm and may be amenable
   to percutaneous sampling if desired, but is not likely amenable to
   catheter drainage at its present size. 2. Vague region of parenchymal
   enhancement at the apex of dilated ducts could represent obstructive
   tumor mass, but its margins are difficult to define.
   3. Interval increase in small bilateral pleural effusions, small
   pericardial effusion, and small amount of ascites.
   4. Interval increase in size of enhancing pericardial lymph node.
   5. Evidence of thrombosis of the posterior right portal vein, resulting
   in heterogeneous perfusion of the posterior right lobe of the liver.
   6. 9-mm pancreatic hypodensity, not previously visualized. While it is
   too small to characterize, findings suggest a cystic lesion such as a
   dilated side branch or an isolated cystic lesion. If desired, this can
   be further evaluated with MRCP.
   Assessment and Plan
   83 year old female with history of biliary obstruction, polymicrobial
   bacteremia from cholangitis presenting with sepsis, now improving s/p
   ERCP, also with a lower extremity DVT now on heparin.
   # Sepsis/leukocytosis/Cholangitis:
   At the OSH she was hypotensive with leukocytosis and polymicrobial
   bacteremia. Currently with E. coli, Klebsiella, GPC and VRE from blood
   cultures. Has negative UA/Urine culture and CXR for pneumonia. Source
   is likely biliary, concern for liver abscess on CT scan from [**2169-1-3**]
   from OSH.  She was started on meropenem, linezolid, and gent for her
   polymicrobial bacteremia.  Inital blood cultures here have grown out
   [**4-8**] GPC in pairs and chains.  Culture data was faxed from the OSH and
   showed: 1) enterococcus sensitive to gent and streptomycin, 2) E.coli
   sensitive to gent, imipenem, and cephalosporins, and 3) Klebsiella
   pansensitive except to amp.  The repeat CT abd/pelvis showed multiple
   abscesses in the liver adjacent to where the stents are placed in the
   anterior portion of the left lobe.  The largest collection is 1.5-2 cm;
   additionally there are a couple of subcm foci.  Also seen is
   intrahepatic ductal dilation/cholangitis.  The radiologist also
   suspects a mass centrally at the porta hepatis as intrahepatic ductal
   dilation is present (but no mass is visualized).  Per radiology none of
   the collections would be amenable to drainage.  She underwent ERCP on
   [**1-6**] and had both sides of her stents flushed without complication.
   - Continue Linezolid, Meropenem, Gentamicin with gent dosed Q48H with a
   trough prior to each dose.  The OSH sensitivity data showed that some
   of the organisms were resistent, however this combination of
   antibiotics adequately covers them all.
   - F/U pending Bcx
   - Wean antibiotics as indicated by culture data
   - Surveillance blood cultures
   - As the liver abscesses are not amenable to drainage, she will need a
   prolonged course of antibiotics for treatment.  Givent the concern for
   a mass at the porta hepatis and the patient
s known history of
   cholangiocarcinoma, she may need to undergo further imaging for this
   mass.
   # Atrial fibrillation:
   The patient has a history of paroxysmal atrial fibrillation, currently
   in sinus with PACs. Digoxin level returned two days again at 3.5 and
   her dig was held ysterday.
   - Will restart digoxin again today with a lower dose of 0.0625 mg every
   other day (she was on 0.125 mg daily).
   - As the patient has many complicating medical issues and has a history
   of falls, even with her CHADS score of 4, she would not be a great
   candidate for anticoagulation.
   # Hypertension: The patient
s SBPs have been trending upwards.  She
   usually is on lasix 40 mg daily at home.
   - Can restart her home lasix.
   # Lower Extremity Edema/ Left leg DVT:
   Right greater than left edema with no associated pain.  Lower extremity
   doppler showed a left-sided DVT.  The patient was started on a heparin
   gtt overnight.
   - Continue anticoagulation with the heparin drip for treatment of her
   DVT with a goal of 50-70.  Will need to have discussion with family
   about goals of care to determine whether she should continue to be
   anticoagulated for the DVT vs IVC filter vs no treatment given her risk
   of bleeding due to her history of falls.
   - Restart home lasix as above.
   # Thrombocytopenia:
   No evidence of splenomegaly on CT scan. Admission Plt count 243 and now
   104 (OSH value was 93).  Stable
   # Possible NSTEMI:
   Positive troponin, ECG changes and elevated BNP at OSH (though clinical
   setting in which this was ordered is unclear).   [**Name2 (NI) 6**] LE edema and is on
   chronic Lasix at home. Lasix currently on hold.  ECG from [**2169-1-2**] to
   [**2169-1-3**] demonstrates a change in axis and co-incides with
   chills/rigors/shortness of breath noted in one of the consultant
   notes.  ECG here with new TWI V1-V4 and maintenance of new axis since
   [**1-2**]. Patient is ruled out for MI by troponins.  Her TTE yesterday
   showed a normal EF >55%, however increased PCWP indicating diastolic
   heart failure.
   - Continue aspirin and statin.  Unclear why not on ace or beta blocker
   at home given history of CAD/CHF.  Will hold off starting either in the
   acute setting of resolving bacteremia.
   # Parkinson's disease:
   - Continue Sinemet and Pramipexole at outpatient doses.
   # Diabetes mellitus, type 2: Well controlled, not requiring coverage,
   although she has been NPO.
   - qid fingersticks and SSI coverage.
   # Hyperlipidemia:
   - Continue Zocor
   # Allergies:
   - Continue outpatient Singulair, albuterol nebs prn
   ICU Care
   Nutrition: NPO for now until speech and swallow evaluates her given
   aspiration concerns.
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-1-5**] 04:46 PM
   22 Gauge - [**2169-1-5**] 09:51 PM
   Prophylaxis:
   DVT:  systemically anticoagulated on a heparin gtt
   Stress ulcer:  PPI IV given NPO
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Patient can be called out to the floor today.
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_25%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_26%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_27%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_28%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_29%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_30%22,640,400,50,50,1);

2169-01-07 10:33:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2169-1-6**] 11:00 AM
 ERCP - At [**2169-1-6**] 08:00 PM
   Left LE DVT determined by non-invasive (evaluation of RIGHT leg
   swelling).
   Witnessed aspiration of medications last PM.
   States to feel well this AM.
                          History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Gentamicin - [**2169-1-6**] 02:00 PM
   Meropenem - [**2169-1-7**] 03:51 AM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2169-1-7**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.2
   HR: 73 (62 - 83) bpm
   BP: 160/62(89) {117/45(68) - 163/77(94)} mmHg
   RR: 19 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,636 mL
                                                                    486 mL
   PO:
                                                                    930 mL
             TF:
   IVF:
                                                                  2,706 mL
                                                                    486 mL
   Blood products:
   Total out:
                                                                    895 mL
                                                                    390 mL
   Urine:
                                                                    895 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,741 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.5 g/dL
   128 K/uL
   82 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   21 mg/dL
   110 mEq/L
   142 mEq/L
   32.0 %
   20.4 K/uL
        [image002.jpg]
                             [**2169-1-5**]  06:04 PM
                             [**2169-1-6**]  04:56 AM
                             [**2169-1-7**]  05:06 AM
   WBC
   25.6
   16.3
   20.4
   Hct
   35.4
   32.4
   32.0
   Plt
   120
   104
   128
   Cr
   0.8
   0.7
   0.6
   TropT
   0.05
   0.05
   Glucose
   111
   81
   82
   Other labs: PT / PTT / INR:14.2/63.7/1.2, CK / CKMB /
   Troponin-T:11/2/0.05, ALT / AST:[**6-30**], Alk Phos / T Bili:135/1.4,
   Differential-Neuts:91.3 %, Lymph:6.0 %, Mono:2.5 %, Eos:0.0 %,
   Albumin:2.8 g/dL, LDH:152 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   BACTEREMIA -- polymicrobial, high grade, in context of new liver
   lesions (presumed abscesses).
   LIVER LESIONS -- likely represent abscesses, but may also represent
   tumor.  Continue antimicrobials.  Monitor lesions with f/u study in
   future.
   CHOLANGITIS -- s/p ERCP and flushing of metal stents.  Tolerated well.
   Continue antimicrials
   DVT -- lift LE.  Heparin with goal PTT 60-80.  Monitor LE girth.  Need
   to determine long-term goals as patient may not be good candidate for
   chronic anticoagulation --> IVC filter may be option if no plans for
   coumadin.
   ALTERED MENTAL STATUS -- confusion attibuted to sepsis.  Now improved.
   CHOLANGIOCARCINOMA -- palliative care.
   PORTA HEPATIS MASS -- suggests new mass, perhaps progression of known
   cholangiocarcinoma.
   DIGOXIN TOXICITY -- hold, and resume Digoxin dosing when level declines
   to therapeutic range.
   PARKINSON's DISEASE -- continue usual meds.  Neurology to assist in
   medication management.
   NUTRITIONAL SUPPORT -- NPO pending swallow evaluation.  Likely
   attributed to Parkinson's.
   FLUIDS -- replete.  Monitor I/O.  Maintain balance.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-1-5**] 04:46 PM
   22 Gauge - [**2169-1-5**] 09:51 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill